US06451814B1
N-{3-[(2S)-2-Hydroxy-3-(2-{4-[1-(3-methoxy-benzo[b]thiophene-2-carbonyl)-piperidin-4-ylamino]-phenyl}-ethylamino)-propoxy]-phenyl}-acetamide
{4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}(3-methoxy-1-benzothiophen-2-yl)methanone (0.170 g, 0.415 mmol) was reacted with N-{3-[(2S)oxiranylmethoxy]phenyl}acetamide (0.086 g, 0.415 mmol) according to Procedure G to give the title compound (0.06 g, 0.097 mmol).

reactant | {4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}(3-methoxy-1-benzothiophen-2-yl)methanone | 0.415 mmol, 0.170 g | NCCC1=CC=C(NC2CCN(CC2)C(=O)C=2SC3=C(C2OC)C=CC=C3)C=C1 | C23H27N3O2S
reactant | N-{3-[(2S)oxiranylmethoxy]phenyl}acetamide | 0.415 mmol, 0.086 g | O1[C@@H](C1)COC=1C=C(C=CC1)NC(C)=O | C11H13NO3
product | N-{3-[(2S)-2-Hydroxy-3-(2-{4-[1-(3-methoxy-benzo[b]thiophene-2-carbonyl)-piperidin-4-ylamino]-phenyl}-ethylamino)-propoxy]-phenyl}-acetamide | 0.097 mmol, 0.06 g | O[C@H](COC=1C=C(C=CC1)NC(C)=O)CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(=O)C1=C(C2=C(S1)C=CC=C2)OC | C34H40N4O5S
